**********************************************************************
* ENE0046  Laboratorio de Eletronica          NanoEng, UnB, 2026/2
*
* Amplificadores operacionais usados nos roteiros da disciplina.
*
* ATENCAO: as duas pecas NAO tem a mesma ordem de terminais. Cada
* fabricante escreveu a sua, e os modelos estao aqui como vieram.
*
*   LM741   nao inversora, inversora, V+, V-, saida
*   TL064   inversora, saida, nao inversora, V+, V-
*
* Cada simbolo precisa do SpiceOrder correspondente ao seu subcircuito.
* No esquematico, Prefix X, Value LM741 ou TL064, ModelFile ene0046.lib.
**********************************************************************

**********************************************************
*            (c) National Semiconductor, Inc.            *
*        Models developed and under copyright by:        *
*              National Semiconductor, Inc.              *
*                                                        *
*   Reproduced with permission of National Semiconductor *
*   Corporation.                                         *
*                                                        *
*   The models and subcircuits in this file are provided *
*   as is, without any warranties of any kind. National  *
*   Semiconductor does not assume any responsibility for *
*   the use of this file, and specifically disclaims all *
*   warranties, including the implied warranties of      *
*   merchantability or fitness for any particular        *
*   purpose.                                             *
*                                                        *
**********************************************************
*
*LM741 OPERATIONAL AMPLIFIER MACRO-MODEL
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
.SUBCKT LM741       1   2  99  50  28
IOS 2 1 20N
R1 1 3 250K
R2 3 2 250K
I1 4 50 100U
R3 5 99 517
R4 6 99 517
Q1 5 2 4 QX741
Q2 6 7 4 QX741
C4 5 6 60.3614P
I2 99 50 1.6MA
BOS 7 1 v= 1E-3 + 1*v(16,49)
R8 99 49 40K
R9 49 50 40K
V2 99 8 1.63
D1 9 8 DX741
D2 10 9 DX741
V3 10 50 1.63
EH 99 98 99 49 1
G1 98 9 5 6 2.1E-3
R5 98 9 95.493MEG
C3 98 9 333.33P
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 5.3052E-15
G4 98 16 3 49 3.1623E-8
L2 98 17 530.5M
R13 17 16 1K
B6 50 99 i= 450E-6 + 1*i(V6)
E1 99 23 99 15 1
R16 24 23 25
D5 26 24 DX741
V6 26 22 0.65V
R17 23 25 25
D6 25 27 DX741
V7 22 27 0.65V
V5 22 21 0.18V
D4 21 15 DX741
V4 20 22 0.18V
D3 15 20 DX741
L3 22 28 100P
RL3 22 28 100K
.ENDS LM741
.MODEL DX741 D(IS=1E-15)
.MODEL QX741 NPN(BF=625)

.SUBCKT TL064 1 3 2 4 5
.MODEL MDTH D IS=1E-8 KF=1.175758E-14 CJO=10F
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 4.000000E+00
RIN 15 16 4.000000E+00
RIS 11 15 9.848265E-01
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 6.500000E-05
CPS 11 15 2.981372E-08
DINN 17 13 MDTH 400E-12
VIN 17 5 3.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 3.000000E+00
FCP 4 5 VOFP 2.076923E+00
FCN 5 4 VOFN 2.076923E+00
FIP 5 19 VOFP 5.384615E+02
FIN 5 19 VOFN 5.384615E+02
GVNEG 5 19 5 13 1.311224E-06
GVPOS 5 19 4 13 1.311224E-06
RG1 19 5 1.626871E+05
RG2 19 4 1.626871E+05
CC 19 29 1.000000E-08
HZTP 30 29 VOFP 2.558489E+03
HZTN 5 30 VOFN 2.558489E+03
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 3.750000E+03
VIPM 28 4 9.000000E+01
HONM 21 27 VOUT 9.000000E+03
VINM 5 27 9.000000E+01
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 100
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 2.290897E+00
DON 24 19 MDTH 400E-12
VON 24 5 2.290897E+00
.ENDS TL064
